US08211892B2
10.3 g of 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are placed in 204 ml of a 4N solution of hydrochloric acid in dioxane. The reaction mixture is stirred at ambient temperature for 1.5 h. It is subsequently evaporated under reduced pressure and then a saturated aqueous sodium hydrogencarbonate solution is added. The aqueous phase is extracted three times with dichloromethane. The organic phases are combined, dried over sodium sulphate and concentrated under vacuum. 7.96 g of 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline are obtained.

reactant | 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 10.3 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1CC1 | C25H33N5O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline | 7.96 g | C1(CC1)S(=O)(=O)N1CCN(CC1)C=1C=CC(=NC1)N1CCNC2=CC=CC=C12 | C20H25N5O2S
